data/pmechdb/original/mc_train_fold0/raw/train.txt
[CH:11]1=[CH:10]OC(=C1)C(F)(F)F.[N+:20](=O)=[O:21]>>C1=C(O[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])C(F)(F)F 10,11=10,20;20,21=21
CC(C)(C)[Si:20](C)(C)Cl.C1=C[N:10]=CN1.CC1(CC(C(=O)C2C1O2)(C)CO)C>>CC(C)(C)[Si-:20](C)(C)([N+:10]1=CNC=C1)Cl.CC1(CC(C(=O)C2C1O2)(C)CO)C 10=20,
[H:20][P+:21](OC)(Cl)Cl.C[OH:10]>>[H:20][OH+:10]C.CO[P:21](Cl)Cl 10=20;20,21=21
C[Si](C)(C)C=[C:11]=[CH2:10].[CH2:20]=[O+:21][Cu-]>>C[Si](C)(C)C=[C+:11][CH2:10][CH2:20][O:21][Cu-] 10,11=10,20;20,21=21
CC(C(C)C(=[O:10])C1=CC(=C(C=C1)OC)OC)[C:20](=[OH+:21])C2=CC(=C(C=C2)OC)OC.CO.O.[Cl-]>>CC1C([C:20]([O+:10]=C1C2=CC(=C(C=C2)OC)OC)(C3=CC(=C(C=C3)OC)OC)[OH:21])C.CO.O.[Cl-] 10=20;20,21=21
C1CC[C:20](CC1)([OH2+:21])[O:10]C2=C(C=CC=C2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CC[C:20](=[O+:10]C2=C(C=CC=C2)O)CC1.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)NC(=O)CC)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)N[C:24]1=[CH:23][CH:22]=[C:21](C=C1)Br 10=20;20,21=21,22;22,23=23,24
[Li]OC(C1=CC=CC=C1)C(C)N(C)C(=[O+:11][Li-:10][NH+](C(C)C)C(C)C)C(C)CC(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.CC(C)NC(C)C.[I-]>>[Li:10][NH+](C(C)C)C(C)C.[Li]OC(C1=CC=CC=C1)C(C)N(C)C(=[O:11])C(C)CC(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.CC(C)NC(C)C.[I-] 10,11=11
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(CO)(COC(C1=CC=CC=C1)[OH:10])C(=O)O>>[H:20][OH+:10]C(C1=CC=CC=C1)OCC(C)(CO)C(=O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C1CC1C[NH2:10].[N:20]#[O+:21]>>C1CC1C[NH2+:10][N:20]=[O:21] 10=20;20,21=21
[C-:10]#N.C(C[CH2:20][Br:21])CC#N>>C(CCC#N)[CH2:20][C:10]#N.[Br-:21] 10=20;20,21=21
C[Si:20](C)(C)[O+]=C.[Br-:10]>>C[Si-:20](C)(C)([O+]=C)[Br:10] 10=20,
[H:20][O:21]C=O.C1C2CC(=CC1C[NH+](C2)C[O-:10])C3=CC=CN=C3>>[H:20][O:10]C[NH+]1CC2CC(C1)C=C(C2)C3=CC=CN=C3.C(=O)[O-:21] 10=20;20,21=21
[H:20][S+:21](C)SC.[Br-:10]>>CS[S:21]C.[H:20][Br:10] 10=20;20,21=21
[H:20][CH:21](CO)[C+:22](C)C.CC(=C)CC[OH:10]>>[H:20][OH+:10]CCC(=C)C.C[C:22](=[CH:21]CO)C 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C[C:11](=[CH2:10])Br>>[H:20][CH2:10][C+:11](C)Br.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[NH:10][S+:20](C)O>>C[NH+:10]=[S:20](C)O 10=20,
[CH2:20]([NH2:10])[F:21]>>[CH2:20]=[NH2+:10].[F-:21] 10=20;20,21=21
C[C+:20](C)[NH2:10]>>C[C:20](=[NH2+:10])C 10=20,
CC1=CC=C(C=C1)[S:20](=O)([O-:10])(ON=C(C)C2=CN=CC=C2)[Cl:21].C1=CC=[NH+]C=C1>>CC1=CC=C(C=C1)[S:20](=O)(=[O:10])ON=C(C)C2=CN=CC=C2.[Cl-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
CC(=[O:10])O.C[Si:20](C)(C)Cl>>CC(=[O+:10][Si-:20](C)(C)(C)Cl)O 10=20,
CO[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1.O[S+:20](=O)=O>>CO[C+:11]1C=CC2=C([CH:10]1[S:20](=O)(=O)O)C=CC=C2 10,11=10,20
[H:20][O:21]C1=CC=C(C=C1)CC(C(=O)NC)NC(=O)C.OP(=O)([O-:10])[O-].[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl.FI>>[H:20][O:10]P(=O)(O)[O-].CC(=O)NC(CC1=CC=C(C=C1)[O-:21])C(=O)NC.[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl.FI 10=20;20,21=21
C[CH+:20]C.CC(=O)C1=CC2=C(C=C[CH:11]=[CH:10]2)C=C1>>C[CH:20](C)[CH:10]1[CH+:11]C=CC2=C1C=C(C=C2)C(=O)C 10,11=10,20
[H:20][O:21]S(=O)(=O)O.CCNC[CH:10]=[C:11](N)[OH:12]>>[H:20][CH:10](CNCC)[C:11](=[OH+:12])N.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C(F)(F)F.CCCC(CC(=[O:10])O)CO.CC(C)(C)OC(=O)C(F)(F)F>>[H:20][O+:10]=C(CC(CCC)CO)O.C(=O)(C(F)(F)F)[O-:21].CC(C)(C)OC(=O)C(F)(F)F 10=20;20,21=21
[H:20][OH+:21]C.CC1=C(C(=C2CCC(OC2=C1C)(C)C(O)([OH:10])OC)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C(C1(CCC2=C(C(=C(C(=C2O1)C)C)O)C)C)(O)OC.C[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[Li+:20].CCCCCCC#CC=CCCC[O-:10].CCC(C)I>>[Li:20][O:10]CCCC=CC#CCCCCCC.CCC(C)I 10=20,
CC(C)CC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC3CCCCC3)O>>CC(C)CC1=CC=C[N:21]=C1.C1CCC(CC1)OCC2C(C[CH:20]=[O+:10]2)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1C([O:10]1)CCCCCO>>[H:20][O+:10]1CC1CCCCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CC(C)C(O)[O:10]C>>[H:20][O+:10](C)C(C(C)C)O.[OH2:21] 10=20;20,21=21
[H:20][NH+:21](C(C)(C)[O-])O.[NH2:10]O>>[H:20][NH2+:10]O.CC(C)([NH:21]O)[O-] 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.C1CCC(C(C1)O)([OH:10])OCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C1(CCCCC1O)OCCO.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C1=CC=C(C=C1)C[NH2:10].C1=CC=C(C=C1)C(=O)CC[C:20](=[O:21])C2=CC=CC=C2.CC(=O)O>>C1=CC=C(C=C1)C[NH2+:10][C:20](CCC(=O)C2=CC=CC=C2)(C3=CC=CC=C3)[O-:21].CC(=O)O 10=20;20,21=21
CCCCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC=C2)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC=C2)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:10][C:11]1(CCCCC1CCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCCCC1CCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CC[O-:10].C1=C[C:20](=[CH:21][CH:22]=[C:23]1[N+](=O)[O-])I>>CC[O:10][C:20]1(C=C[C-:23]([CH:22]=[CH:21]1)[N+](=O)[O-])I 10=20;22,23=23;20,21=21,22
CC[O:21][C:20](C)(CC#N)[O-:10]>>CC[O-:21].C[C:20](=[O:10])CC#N 10=20;20,21=21
CC[O-:10].C[CH:20](C1=CC=CC=C1)[Br:21]>>CC[O:10][CH:20](C)C1=CC=CC=C1.[Br-:21] 10=20;20,21=21
